US09302991B2
<Step-2>: N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(cyclobutanecarboxamido)-6-methylpyrimidine-4-carboxamide (Example-217, single enantiomer)
The title compound is prepared from 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide (20 mg, 0.05 mmol, Step-1, single enantiomer) and cyclobutanecarbonyl chloride (27 mg, 0.26 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-6-methylpyrimidine-4-carboxamide | 0.05 mmol, 20 mg | NC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F)C | C15H15ClF3N5O2
reactant | cyclobutanecarbonyl chloride | 0.26 mmol, 27 mg | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(cyclobutanecarboxamido)-6-methylpyrimidine-4-carboxamide | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=NC(=NC(=C1)C)NC(=O)C1CCC1 | C20H21ClF3N5O3
